US07390923B2
3-(3-Chloro-4-cyanophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 52 starting from 4-amino-2-chlorobenzonitrile and 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-3% methanol). 1H NMR (400 MHz, DMSO-d6): 1.40 (3H, s), 2.52 (3H, s), 3.27 (1H, dd, J=13.8 Hz, J=5.5 Hz), 3.55 (1H, dd, J=13.8 Hz, J=6.9 Hz), 6.12 (1H, s), 6.72 (1H, dd, J=8.8 Hz, J=2.2 Hz), 6.90 (1H, d, J=2.2 Hz), 6.95-6.98 (1H, m), 7.46 (1H, d, J=8.7 Hz), 7.80 (1H, dd, J=8.9 Hz, J=2.3 Hz), 7.83 (1H, d, J=2.0 Hz), 8.02 (1H, d, J=8.9 Hz), 10.05 (1H, s).

reactant | 4-amino-2-chlorobenzonitrile | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(3-Chloro-4-cyanophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | ClC=1C=C(C=CC1C#N)NCC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C18H17ClN4O4
